US07947851B2
Step d) Formation of 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl)-2-hydroxybenzoic acid
A solution of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-hexyl-2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carboxamide (108 mg, 0.20 mmol) and lithium hydroxide (120 mg, 2.9 mmol) in THF (1 mL) and water (1 mL) was heated at 70° C. overnight. The solvents were removed under reduced pressure. The residue was taken up in EtOAc and washed with an aqueous solution of HCl (1N) and brine, dried over MgSO4 and the solvent was removed under reduced pressure to give 91 mg (91%) of hte title compound. HPLC, Rt: 5.72 min (purity: 98.9%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-hexyl-2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carboxamide | 0.20 mmol, 108 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)CCCCCC)C=C1 | C36H41NO4
reactant | lithium hydroxide | 2.9 mmol, 120 mg | [OH-].[Li+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl)-2-hydroxybenzoic acid | 91 mg, 91% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2C=CC(=C(C(=O)O)C2)O)CCCCCC)C=C1 | C33H37NO4
